US03957989
2,7-BIS(2-MORPHOLINOACETYL)XANTHENE DIHYDROCHLORIDE HYDRATE
A mixture of 22.7 g (0.068 mole) of 2,7-bis(chloroacetyl)-xanthene, 2 g of potassium iodide, 200 ml. of morpholine and 500 ml. of tetrahydrofuran was allowed to stand for 7 days at room temperature, then filtered. The filtrate was evaporated to dryness and the resulting residue was cooled, dissolved in dilute HCl and filtered. The filtrate was made alkaline and the product was extracted with methylene chloride. The methylene chloride extract was evaporated to a small volume, cooled and acidified to Congo Red with ethereal HCl. The precipitate was filtered off and recrystallized three times from methanoldiethyl ether. After drying in vacuo and hydrating in a constant humidity chamber, the desired product was obtained. M.P. > 350°C.

reactant | 2,7-bis(chloroacetyl)-xanthene | 0.068 mole, 22.7 g | ClCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCl)=O | C17H12Cl2O3
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS(2-MORPHOLINOACETYL)XANTHENE DIHYDROCHLORIDE HYDRATE | O.Cl.Cl.O1CCN(CC1)CC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CN1CCOCC1)=O | InChI=1S/C25H28N2O5.2ClH.H2O/c28-22(16-26-5-9-30-10-6-26)18-1-3-24-20(13-18)15-21-14-19(2-4-25(21)32-24)23(29)17-27-7-11-31-12-8-27;;;/h1-4,13-14H,5-12,15-17H2;2*1H;1H2
